US08258130B2
A suspended solution of 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (2,3-dihydro-indol-1-yl)-amide (0.28 mmol) and MnO2 (1.42 mmol) in DCM (8 mL) is stirred at rt for 2 h. The reaction mixture is filtered and the filtrate is concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-5% methanol in DCM to afford 2-pyridin-2-yl-pyrimidine-5-carboxylic acid indol-1-yl-amide (45 mg, 50%) as a solid. MS: 316 (M+H); 1H NMR (300 MHz, CDCl3): δ 6.48 (s, H), 6.72-7.48 (m, 5H), 7.56 (s, H), 7.88 (s, H), 8.52 (br, 2H), 9.08 (br, 2H), 11.56 (br, N—H). IC50=4.5 nM.

reactant | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (2,3-dihydro-indol-1-yl)-amide | 0.28 mmol | N1(CCC2=CC=CC=C12)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1 | C18H15N5O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 1.42 mmol | O=[Mn]=O
product | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid indol-1-yl-amide | 45 mg, 50% | N1(C=CC2=CC=CC=C12)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1 | C18H13N5O
